US07226923B2
4-Bromo-2-isopropyl-7-methoxymethyl-2H-phthalazin-1-one
4-Bromo-7-hydroxymethyl-2-isopropyl-2H-phthalazin-1-one (0.11 g, 0.37 mmol) was dissolved in THF (2 ml). To this was added NaH (60%, 0.019 g, 0.44 mmol) as a THF suspension (2 ml). To this was added methyl iodide (0.063 g, 0.48 mmol) and the reaction mixture was stirred for 20 hours. The reaction mixture was concentrated under vacuum and the residue was purified by flash column chromatography (elution: 80% heptane, 20% ethyl acetate) to give the title compound (0.08 g, 69% yield) as a white solid.

reactant | 4-Bromo-7-hydroxymethyl-2-isopropyl-2H-phthalazin-1-one | 0.37 mmol, 0.11 g | BrC1=NN(C(C2=CC(=CC=C12)CO)=O)C(C)C | C12H13BrN2O2
reactant | NaH | 0.44 mmol, 0.019 g | [H-].[Na+]
reactant | methyl iodide | 0.48 mmol, 0.063 g | CI | CH3I
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-Bromo-2-isopropyl-7-methoxymethyl-2H-phthalazin-1-one | 0.08 g, 69% yield | BrC1=NN(C(C2=CC(=CC=C12)COC)=O)C(C)C | C13H15BrN2O2
